US06953806B2
0.515 ml Diisopropyl-aethylamine, 0.674 g (3.00 mmol) 4-trifluoromethylphenyl chloroformate [Org. Lett. (2000), 2(8), 1049-1051] and 0.828 mg potassium carbonate (dissolved in the minimal amount of water) were added to a suspension of 0.625 g (2.00 mmol) trans-[4-(5-bromo-pentyl)-cyclohexylmethyl]-methyl-amine hydrochloride in 20.0 ml of tetrahydrofuran kept at −10° C. The reaction mixture was then intensively stirred for 1 hour at −10° C. and for 3 hour at room temperature. 0.200 g 4-trifluoromethylphenyl chloroformate were added and stirring at room temperature continued for additional 2 hours. The reaction mixture was subsequently acidified with dilute hydrogen chloride solution. It was then evaporated, poured into 50 ml of an ice/water mixture and extracted 3 times with 50 ml of dichloromethane. The combined dichloromethane phases were dried over magnesium sulfate and evaporated under reduced pressure. The residue formed was chromatographed on silica gel with a 1:1 v/v mixture of hexane and dichloromethane as the eluent giving 0.90 g (96.9%) trans-[4-(5-bromo-pentyl)-cyclohexylmethyl]-methyl-carbamic acid 4-trifluoromethyl-phenyl ester as colorless viscous oil, MS: 464 (MH+, 1Br).

reactant | 4-trifluoromethylphenyl chloroformate | 3.00 mmol, 0.674 g | ClC(=O)OC1=CC=C(C=C1)C(F)(F)F | C8H4ClF3O2
reactant | trans-[4-(5-bromo-pentyl)-cyclohexylmethyl]-methyl-amine hydrochloride | 2.00 mmol, 0.625 g | Cl.BrCCCCC[C@@H]1CC[C@H](CC1)CNC
reactant | 4-trifluoromethylphenyl chloroformate | 0.200 g | ClC(=O)OC1=CC=C(C=C1)C(F)(F)F | C8H4ClF3O2
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 20.0 ml | O1CCCC1 | C4H8O
catalyst | potassium carbonate | 0.828 mg | C([O-])([O-])=O.[K+].[K+]
product | trans-[4-(5-bromo-pentyl)-cyclohexylmethyl]-methyl-carbamic acid 4-trifluoromethyl-phenyl ester | 0.90 g, 96.9% | FC(C1=CC=C(C=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)CCCCCBr)=O)(F)F | C21H29BrF3NO2
